US07473694B2
Synthesis of tert-butyl {5-(4-tert-butoxycarbonylaminocyclohexylamino)-6-[2-(tert-butyldimethylsilanyloxy)ethyl]pyrazolo[1,5-a]pyrimidin-7-yl}-(4-ethoxyphenyl)carbamate
To a methylene chloride solution (0.5 mL) of tert-butyl {5-(4-aminocyclohexylamino)-6-[2-(tert-butyldimethylsilanyloxy)ethyl]pyrazolo[1,5-a]pyrimidin-7-yl}-(4-ethoxyphenyl)carbamate (50 mg, 0.08 mmol), triethylamine (33 μL, 0.24 mmol), di-tert-butyl dicarbonate (32 mg, 0.16 mmol) and 4-N,N-dimethylaminopyridine (2 mg, 0.02 mmol) were added and the mixture was stirred at room temperature. After the reaction, aqueous ammonium chloride solution was added to the reaction solution and the mixture was extracted with ethyl acetate. The combined ethyl acetate layer was washed with brine and dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated to obtain the title compound.

reactant | tert-butyl {5-(4-aminocyclohexylamino)-6-[2-(tert-butyldimethylsilanyloxy)ethyl]pyrazolo[1,5-a]pyrimidin-7-yl}-(4-ethoxyphenyl)carbamate | 0.08 mmol, 50 mg | NC1CCC(CC1)NC1=NC=2N(C(=C1CCO[Si](C)(C)C(C)(C)C)N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)OCC)N=CC2 | C33H52N6O4Si
reactant | triethylamine | 0.24 mmol, 33 μL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.16 mmol, 32 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl {5-(4-tert-butoxycarbonylaminocyclohexylamino)-6-[2-(tert-butyldimethylsilanyloxy)ethyl]pyrazolo[1,5-a]pyrimidin-7-yl}-(4-ethoxyphenyl)carbamate | C(C)(C)(C)OC(=O)NC1CCC(CC1)NC1=NC=2N(C(=C1CCO[Si](C)(C)C(C)(C)C)N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)OCC)N=CC2 | C38H60N6O6Si
